US05091407
Sodium hydride (1.44 g, 55% in oil, 0.033 mol) was washed with petrol 60°-80° and suspended in DMF (15 ml). To this the methyl (2-benzoylpyrrol-1-yl)acetate (4.0 g, 0.0165 mol) in DMF (15 ml) and methyl formate (20.3 ml, 0.33 mol) was added dropwise at room temperature. After 4 hours it was poured into 200 ml of 10% potassium carbonate, washed with diethyl ether (2×100 mls), then the aqueous was neutralised with concentrated hydrochloric acid and extracted with diethyl ether (2×100 ml). These extracts were washed with brine, dried and evaporated to give methyl 3-hydroxy-2-(2-benzoylpyrrol-1-yl)acrylate (3.86 g, 86%) as a white crystalline solid melting at 112°-113° C.

reactant | Sodium hydride | 0.033 mol, 1.44 g | [H-].[Na+]
reactant | methyl (2-benzoylpyrrol-1-yl)acetate | 0.0165 mol, 4.0 g | C(C1=CC=CC=C1)(=O)C=1N(C=CC1)CC(=O)OC | C14H13NO3
reactant | methyl formate | 0.33 mol, 20.3 ml | C(=O)OC | C2H4O2
reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-2-(2-benzoylpyrrol-1-yl)acrylate | 3.86 g, 86% | OC=C(C(=O)OC)N1C(=CC=C1)C(C1=CC=CC=C1)=O | C15H13NO4
